US08426447B2
To a mixture of sodium carbonate (1.562 g, 14.74 mmol), palladium tetrakistriphenylphosphine (0.454 g, 0.393 mmol), pyrimidin-5-ylboronic acid (0.791 g, 6.39 mmol) and 2′-bromo-N-tert-butyl-7′-iodo-5H-spiro[thiazole-4,9′-xanthen]-2-amine (2.600 g, 4.91 mmol) in a resealable pressure tube, was added DME (15 mL) and water (5 mL) at RT. The tube was sealed and heated to 80° C. After 24 hrs, the mixture was cooled to RT, diluted with EtOAc, and washed with water and brine. The organic fraction was adsorbed onto silica gel and purified by silica gel chromatography using 40% hexanes:EtOAc to afford 2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine. MH+=481.0/483.0.

reactant | sodium carbonate | 14.74 mmol, 1.562 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyrimidin-5-ylboronic acid | 6.39 mmol, 0.791 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 2′-bromo-N-tert-butyl-7′-iodo-5H-spiro[thiazole-4,9′-xanthen]-2-amine | 4.91 mmol, 2.600 g | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)I)N=C(SC3)NC(C)(C)C | C19H18BrIN2OS
reactant | DME | 15 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
product | 2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(SC3)NC(C)(C)C | C23H21BrN4OS
